Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12]>>[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10](=[O:11])[H:12],2.0737583886900004
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7].[O:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],-5.4322467231800005
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8].[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-4.0548061016300005
[C:1][C:2]([H:3])([H:4])[C:5]#[C:9][H:10].[C:6][O:7][H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6][O:7][H:8])=[C:9][H:10],-0.9845781288
[H:6].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:7][H:8]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8],-1.75100948677
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-6.31890535023
[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:8]([C:7][O:6][C:4][H:5])([H:9])[H:10],1.94914073058
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],2.13335178812
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8],3.82544328729
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])=[C:7]([H:8])[O:9][C:10][H:11]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-1.61872858967
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],3.65222332909
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],3.408819502840001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],5.1973146884800006
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6],1.55530891062
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.28021780937
[C:5]=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])([C:4]([H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])[H:10]>>[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.45524719954
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.06394357849
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.40035573013
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.94536928181
[C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-4.96493802847
[H:1][C:2]=[C:3]([H:4])[C:5]1=[C:6]([H:7])[C:8]([H:9])[C:10]1>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:10]#[C:8][H:9],-0.8188013709299999
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],2.61284735272
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]([C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])([H:5])([H:6])[H:7].[C:3]#[C:4],7.90185171747
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8][O:9][C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11],1.0639212727200005
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])[H:12].[H:13],4.324240008319999
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[H:16],3.89426441701
[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.414953278139999
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],2.71882470088
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.71372858574
